US04866168
The process of claim 1 wherein hematoporphyrin derivative is prepared by adding a first mixture of acetic acid and sulfuric acid to hematoporphyrin hydrochloride, stirring for one hour to obtain a second mixture, adding the second mixture to a solution of 5% soldium acetate to obtain a red precipitate, and recovering the red precipitate.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | hematoporphyrin hydrochloride | CC1=C(C2=CC3=NC(=CC4=NC(=CC5=C(C(=C(N5)C=C1N2)C(C)O)C)C(=C4CCC(=O)O)C)C(=C3C)CCC(=O)O)C(C)O.Cl
reactant | acetate | C(C)(=O)[O-]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | hematoporphyrin | CC1=C2C=C3N=C(C=C4C(=C(C(=N4)C=C5NC(=CC(=C1C(C)O)N2)C(=C5C(C)O)C)C)CCC(=O)O)C(=C3C)CCC(=O)O | C34H38N4O6
